US05468888
A solution of 15.4 g of methyl 11-phthalimido-2,2-dimethylundecanoate and 2.33 cm3 of 98% hydrazine hydrate in 500 cm3 of methanol is stirred for 12 hours at a temperature in the region of 20° C. 32 cm3 of 5N methanolic hydrochloric acid are added. The solvent is evaporated under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. The residue is taken up in 150 cm3 of distilled water. After stirring for 20 minutes, the solid is separated by filtration and washed with a total of 90 cm3 of distilled water. The aqueous phase is brought to a pH in the region of 9-10 by means of a 10% sodium carbonate solution, extracted with a total of 500 cm3 of diisopropyl ether, dried over magnesium sulphate and then concentrated under reduced pressure (2.7 kPa) at a3 temperature in the region of 40° C. The residue is taken up in a mixture of 15 cm3 of methanol and 50 cm3 of diethyl ether. 10 cm3 of 5N methanolic hydrochloric acid are added and the mixture is evaporated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. The yellow oil obtained is taken up in 100 cm3 of distilled water. 2 cm3 of 4N hydrochloric acid are added and the mixture is then brought to a pH in the region of 9-10 by means of a 10% sodium carbonate solution. Extraction is carried out with a total of 450 cm3 of ethyl acetate. The organic phase is dried over magnesium sulphate and then concentrated to dryness under reduced pressure (13.5 Pa) at a temperature in the region of 40° C. 6.8 g of methyl 11-amino-2,2-dimethylundecanoate are thus obtained in the form of a viscous yellow oil [Rf =0.54; silica thin layer chromatography; eluent: chloroform/methanol/28% aqueous ammonia 24/6/1 (by volume)].

reactant | methyl 11-phthalimido-2,2-dimethylundecanoate | 15.4 g | C1(C=2C(C(N1CCCCCCCCCC(C(=O)OC)(C)C)=O)=CC=CC2)=O | C22H31NO4
reactant | hydrazine hydrate | 2.33 cm3 | O.NN
reactant | hydrochloric acid | 5N, 32 cm3 | Cl | ClH
reactant | hydrochloric acid | 4N, 2 cm3 | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 500 cm3 | CO | CH4O
solvent | water | 100 cm3 | O | H2O
product | methyl 11-amino-2,2-dimethylundecanoate | 6.8 g | NCCCCCCCCCC(C(=O)OC)(C)C | C14H29NO2
